US07544812B2
A mixture of 3-(4-benzyloxy-phenyl)-2-cyclopentyloxy-propionic acid cyclopentyl ester (0.137 g, 0.335 mmol) and 10% Pd/C (0.14 g) in EtOAc (70 mL) was purged with N2 then H2 and then stirred under a H2 balloon atmosphere for 3 h at room temperature. Upon reaction completion, MgSO4 was added and the mixture filtered through hyflo. The solvent was removed in vacuo to afford 0.090 g (84%) 2-cyclopentyloxy-3-(4-hydroxy-phenyl)-propionic acid cyclopentyl ester. 1H NMR. MS (ES−) Calc'd for C19H25O4 (M−1) 317. Found m/z 317 (100%).

reactant | 3-(4-benzyloxy-phenyl)-2-cyclopentyloxy-propionic acid cyclopentyl ester | 0.335 mmol, 0.137 g | C1(CCCC1)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)OC1CCCC1)=O | C26H32O4
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.14 g | [Pd] | Pd
product | 2-cyclopentyloxy-3-(4-hydroxy-phenyl)-propionic acid cyclopentyl ester | 0.090 g, 84% | C1(CCCC1)OC(C(CC1=CC=C(C=C1)O)OC1CCCC1)=O | C19H26O4
